US09403807B2
Step H: methyl 2-(4-(tert-butoxycarbonylamino)-6-fluoro-1H-indol-1-yl)-2-(4-chlorophenyl)acetate
The mixture of methyl 2-(4-amino-6-fluoro-1H-indol-1-yl)-2-(4-chlorophenyl)acetate (5.7 g, 0.017 mol) and di-tert-butyl dicarbonate (7.4 g, 0.034 mol) in t-butyl alcohol (80 mL) was heated at 50° C. for 10 h. The solvent was evaporated and the residue was purified by silica gel flash chromatography (PE: EA=8:1) to afford the title compound. LC/MS m/z=377.1 [M-tBu+H]+.

reactant | methyl 2-(4-amino-6-fluoro-1H-indol-1-yl)-2-(4-chlorophenyl)acetate | 0.017 mol, 5.7 g | NC1=C2C=CN(C2=CC(=C1)F)C(C(=O)OC)C1=CC=C(C=C1)Cl | C17H14ClFN2O2
reactant | di-tert-butyl dicarbonate | 0.034 mol, 7.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | t-butyl alcohol | 80 mL | C(C)(C)(C)O | C4H10O
product | methyl 2-(4-(tert-butoxycarbonylamino)-6-fluoro-1H-indol-1-yl)-2-(4-chlorophenyl)acetate | C(C)(C)(C)OC(=O)NC1=C2C=CN(C2=CC(=C1)F)C(C(=O)OC)C1=CC=C(C=C1)Cl | C22H22ClFN2O4
